US07378420B2
B. Synthesis of (S)-1-benzyl-4-[(1-methylpyrrolidin-2-yl)methyl]piperazine
(S)-tert-butyl 2-(4-benzylpiperazine-1-carbonyl)pyrrolidine-1-carboxylate 1.01 g (2.71 mmol) in THF (10 ml) was added slowly to a solution of 1M lithium aluminum hydride in THF (8.2 ml) at 0° C. under argon protection. The reaction mixture was refluxed for 2 hours, cooled, quenched with water and extracted with ethyl ether 2×50 ml. The combined organic solution was washed with brine, dried over sodium sulfate and concentrated to give 0.71 g of desired product in 96% yield.

reactant | (S)-tert-butyl 2-(4-benzylpiperazine-1-carbonyl)pyrrolidine-1-carboxylate | 2.71 mmol, 1.01 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H31N3O3
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 8.2 ml | C1CCOC1 | C4H8O
product | (S)-1-benzyl-4-[(1-methylpyrrolidin-2-yl)methyl]piperazine | 0.71 g, 96% yield | C(C1=CC=CC=C1)N1CCN(CC1)C[C@H]1N(CCC1)C | C17H27N3
